US06716863B2
Using 4-(4-hydroxyphenyl)-1-butanol (4.99 g) and (E)-4-chloromethyl-2-[2-(4-bromophenyl)ethenyl]oxazole (7.43 g), the same reaction as Reference Example 17-(i) was carried out to yield 4-[4-[2-(E)-[2-(4-bromophenyl)ethenyl]-1,3-oxazol-4-yl]methoxyphenyl]-1-butanol (9.70 g). Using the compound obtained (4.28 g), the same reaction as Reference Example 17-(ii) was carried out to yield the titled compound (4.47 g) as a white powder.

reactant | 4-(4-hydroxyphenyl)-1-butanol | 4.99 g | OC1=CC=C(C=C1)CCCCO | C10H14O2
reactant | (E)-4-chloromethyl-2-[2-(4-bromophenyl)ethenyl]oxazole | 7.43 g | ClCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)Br | C12H9BrClNO
product | 4-[4-[2-(E)-[2-(4-bromophenyl)ethenyl]-1,3-oxazol-4-yl]methoxyphenyl]-1-butanol | 9.70 g | BrC1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCO | C22H22BrNO3
